US07348359B2
A mixture of 2.53 g (10.1 mmol) of 2-fluoro-6-iodo benzaldehyde, 1.0 g (11.1 mmol) of mercapto-2-propanone and 3.5 mL (2.5 g, 25 mmol) of Et3N in 15 mL of DMSO was heated to 80° C. overnight. After cooling to room temperature, water was added and the mixture was extracted with ethyl acetate. The organic layer was washed with water (2 times), brine and dried over MgSO4. After evaporation of the solvents, the crude product was purified over silica gel column chromatography to afford 1.85 g (6.12 mmol, yield: 61%) of 2-acetyl-4-iodo benzo[b]thiophene as an orange powder. 1H-NMR (CDCl3), δ: 7.97 (s, 1H), 7.83 (d, J=7.9 Hz, 2H), 7.16 (t, J=7.9 Hz, 1H), 2.70 (s, 3H).

reactant | 2-fluoro-6-iodo benzaldehyde | 10.1 mmol, 2.53 g | FC1=C(C=O)C(=CC=C1)I | C7H4FIO
reactant | mercapto-2-propanone | 11.1 mmol, 1.0 g | SCC(C)=O | C3H6OS
reactant | Et3N | 25 mmol, 3.5 mL, 2.5 g | CCN(CC)CC | C6H15N
reactant | water | O | H2O
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
product | 2-acetyl-4-iodo benzo[b]thiophene | 6.12 mmol, 1.85 g, yield: 61% | C(C)(=O)C1=CC2=C(S1)C=CC=C2I | C10H7IOS
